US05726165
(S)-4-{2-[2-Hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester
A solution of (S)-4-{2-[2-hydroxy-3-(4-benzyloxyphenoxy)propylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester (1.00 g, 1.64 mMol) in methanol (100 ml) containing 10% palladium on charcoal (50 mg) was hydrogenated at 40° C. and 40 p.s.i. for 24 hours. After cooling to room temperature the suspension was filtered through a pad of filter aid and the filtrate was evaporated giving the title compound.

reactant | (S)-4-{2-[2-hydroxy-3-(4-benzyloxyphenoxy)propylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester | 1.64 mMol, 1.00 g | OC(CNCCC1CCC(CC1)[P@@](OCCCC)(=O)COC1=CC=CC=C1)COC1=CC=C(C=C1)OCC1=CC=CC=C1 | C35H48NO6P
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | (S)-4-{2-[2-Hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester | OC(CNCCC1CCC(CC1)[P@@](OCCCC)(=O)COC1=CC=CC=C1)COC1=CC=C(C=C1)O | C28H42NO6P
